US08314112B2
3-Bromo-5-(4-methoxy-phenyl)-pyridine
To a solution of 3,5-dibromopyridine (Sigma-Aldrich, St. Louis, USA) (1 eq, 8.4 mmol, 2 g) and 4-methoxy-phenylboronic acid (Sigma-Aldrich, St. Louis, USA) (1 eq, 8.4 mmol, 1.30 g) in MeCN (12 ml), Na2CO3 (2 eq, 16.7 mmol, 1.79 g) and Pd(PPh3)4 (0.04 eq, 0.334 mmol, 398 mg) are added. The mixture is heated using microwave radiation at 140° C. for 10 min. The solvents are evaporated, the residue is taken up in aqueous NaOH solution (1 M) and extracted with DCM. The organic layer is washed with brine, dried over MgSO4, filtered, and concentrated in vacuo. Purification by column chromatography (hexane/EtOAc) yields the title compound; [M+H]+=264/266.

reactant | 3,5-dibromopyridine | 8.4 mmol, 2 g, 1 eq | BrC=1C=NC=C(C1)Br | C5H3Br2N
reactant | 4-methoxy-phenylboronic acid | 8.4 mmol, 1.30 g, 1 eq | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | Na2CO3 | 16.7 mmol, 1.79 g, 2 eq | C(=O)([O-])[O-].[Na+].[Na+]
solvent | MeCN | 12 ml | CC#N | C2H3N
catalyst | Pd(PPh3)4 | 0.334 mmol, 398 mg, 0.04 eq | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-Bromo-5-(4-methoxy-phenyl)-pyridine | BrC=1C=NC=C(C1)C1=CC=C(C=C1)OC | C12H10BrNO
